US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine
To a solution of 1-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine (2.57 g) in a mixture of 1,4-dioxane and distilled water (100-10 ml) was added a 1N aqueous solution (10.4 ml) of sodium hydroxide. The resulting mixture was stirred at 80° C. for 3 days. After saturated ammonium chloride was added to terminate the reaction, distilled water and ethyl acetate were added. The water layer was extracted three times. The organic layers were combined, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (methanol:methylene chloride=1:50), whereby the title compound (0.93 g) was obtained as a brown oil.

reactant | 1-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine | 2.57 g | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)N1CC(NCC1)CC(C)C | C22H26ClN3O4S2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(NCC1)CC(C)C | C16H22ClN3O2S
